US05280032
In 12 ml of pyridine was suspended 3.0 g of 1-(6-benzyloxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol. To the suspension was added 1.6 ml of acetic anhydride. The resulting mixture was stirred at room temperature for 24 hours. After the completion of the reaction, the solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 60 ml of ethyl acetate and 60 ml of water. The mixture was adjusted to pH 10.5 with potassium carbonate. The organic layer was separated. The aqueous layer was extracted with 30 ml of ethyl acetate. The extract was combined with the previously separated organic layer. The combined organiclayer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was dissolved in 30 ml of acetone. To the solution was added 1.5 ml of a 5N dry hydrogen chloride-ethanol solution. The resulting mixture was stirred at room temperature for 1 hour. The resulting cyrstals were collected by filtration and dried to obtain 2.6 g of 1-acetoxy-1-(6-benzyloxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethane hydrochloride (compound No. 286).

reactant | 1-(6-benzyloxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol | 3.0 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)C(COCCN(C)C)O | C23H27NO3
reactant | acetic anhydride | 1.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride ethanol | 5N | Cl.C(C)O
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 60 ml | O | H2O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-acetoxy-1-(6-benzyloxy-2-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethane hydrochloride | 2.6 g | Cl.C(C)(=O)OC(COCCN(C)C)C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | InChI=1S/C25H29NO4.ClH/c1-19(27)30-25(18-28-14-13-26(2)3)23-10-9-22-16-24(12-11-21(22)15-23)29-17-20-7-5-4-6-8-20;/h4-12,15-16,25H,13-14,17-18H2,1-3H3;1H
